US07202257B2
Morpholine and 1-bromo-2-chloroethane are reacted using the procedure for Example OO to afford 4-(2-chloroethyl)morpholine.

reactant | Morpholine | N1CCOCC1 | C4H9NO
reactant | 1-bromo-2-chloroethane | BrCCCl | C2H4BrCl
product | 4-(2-chloroethyl)morpholine | ClCCN1CCOCC1 | C6H12ClNO
